US06476235B2
A nitrogen inerted reactor is charged with 5% Pt—C (43 g; 58% water-wet) followed by 3-morpholin-4-yl-3-oxo-propionitrile (2.8 mol). A solution of MeOH (3.4 L) and 12N HCl (3.08 mol) is added at such a rate as to maintain an internal temperature of ca. 25° C. The vessel and its contents are degassed via three N2 pressure purges (50 psi). The atmosphere is switched to hydrogen via three H2 pressure purges (50 psi), and the reaction is stirred vigorously at ca. 25° C. under a sustained pressure of hydrogen (50 psi) for ca. 24 hours. The H2 pressure is released and replaced with N2. The reaction is passed through filter agent, which is subsequently washed with MeOH (500 mL). The reaction is concentrated in vacuo to a volume of ca. 1.4 L, and IPA (2.2 L) is added. The reaction mixture is cooled to 0° C. and filtered. The filter cake is washed with MtBE (500 mL) and dried under vacuum at ca. 30C to provide 3-amino-1-morpholin-4-yl-propan-1-one, hydrochloride as a white solid (439 g). This material is used in subsequent steps without further purification.

reactant | 3-morpholin-4-yl-3-oxo-propionitrile | 2.8 mol | N1(CCOCC1)C(CC#N)=O | C7H10N2O2
reactant | HCl | 3.08 mol, 12N | Cl | ClH
catalyst | Pt—C | 43 g | [Pt] | Pt
solvent | MeOH | 3.4 L | CO | CH4O
product | 3-amino-1-morpholin-4-yl-propan-1-one, hydrochloride | 439 g | Cl.NCCC(=O)N1CCOCC1 | InChI=1S/C7H14N2O2.ClH/c8-2-1-7(10)9-3-5-11-6-4-9;/h1-6,8H2;1H
